US06451781B1
a) 4-(7,12-Dihydroxy-3-methanesulfonyloxy-10,13-dimethylhexadecahydrocyclopenta[a]phenanthren-17-yl)pentanoic acid
100 g of cholic acid are dissolved in 500 ml of pyridine and 23.1 ml of mesyl chloride are added dropwise over a period of 30 minutes at 0° C. The mixture is stirred at RT for 3 hours, then poured into a solution of 400 ml of H2SO4 in 3 l of water at 0° C. and extracted 4 times using 750 ml of EA each time. The extract is dried over Na2SO4 and the solvent is removed in vacuo. The residue is crystallized using diisopropyl ether and 117.1 g are obtained; m.p. 121° C. (with decomposition).

reactant | cholic acid | 100 g | C[C@H](CCC(=O)O)[C@H]1CC[C@@H]2[C@@]1([C@H](C[C@H]3[C@H]2[C@@H](C[C@H]4[C@@]3(CC[C@H](C4)O)C)O)O)C | C24H40O5
reactant | mesyl chloride | 23.1 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | H2SO4 | 400 ml | OS(=O)(=O)O | H2O4S
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 3 l | O | H2O
product | 4-(7,12-Dihydroxy-3-methanesulfonyloxy-10,13-dimethylhexadecahydrocyclopenta[a]phenanthren-17-yl)pentanoic acid | OC1CC2CC(CCC2(C2CC(C3(C(CCC3C12)C(CCC(=O)O)C)C)O)C)OS(=O)(=O)C | C25H42O7S
